US07691888B2
H-7) 2-Chloro-4-hydroxymethylphenylhydrazine
Diisobutylaluminium hydride (1M in toluene, 190 ml) is added dropwise, under a nitrogen atmosphere and at −73° C., to a solution of methyl 3-chloro-4-hydrazinobenzoate (9.5 g, 47 mmol) in 1 l of toluene in such a way that the temperature does not rise above −70° C. The reaction mixture is stirred at −73° C. for 30 min and then warmed to −5° C. Following hydrolysis with 500 ml of water, the precipitate is filtered off and washed with ethyl acetate (5×500 ml). The organic phase is evaporated, after which the residue is taken up in a little ethyl acetate and precipitated with petroleum ether/diethyl ether and filtered off. The solid which is obtained in this way is purified chromatographically on silica gel using cyclohexane/ethyl acetate. Yield: 2.9 g

reactant | Diisobutylaluminium hydride | 1M, 190 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl 3-chloro-4-hydrazinobenzoate | 47 mmol, 9.5 g | ClC=1C=C(C(=O)OC)C=CC1NN | C8H9ClN2O2
reactant | water | 500 ml | O | H2O
solvent | toluene | 1 l | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-4-hydroxymethylphenylhydrazine | ClC1=C(C=CC(=C1)CO)NN | C7H9ClN2O
